US06746729B1
A mixture of 6-bromo2-naphthol (22.30 g), 6-chloro-1-hexanol (20.50 g), potassium carbonate (20.50 g) and potassium iodide (1.50 g) in dimethylformamide (DMF, 100 ml) was heated at 100° C for 4 h. The mixture was then cooled and poured into 150 ml of HCl (3N) and extracted with ether (3×200 ml). The combined ether extracts were washed with saturated NaCl solution (200 ml), dried over magnesium sulfate, evaporated to give a brownish oil and filtered through a silica gel column (150 g,) using dichloromethane as eluent to give a brownish solid. The brown solid was recrystallised from hexane/dichloromethane (9/1) to give 24.8 g of 6-(6bromo-naphthalen-2-yloxy)hexan-1-ol as white needles.

reactant | 6-bromo2-naphthol | 22.30 g | BrC=1C=C2C=CC(=CC2=CC1)O | C10H7BrO
reactant | 6-chloro-1-hexanol | 20.50 g | ClCCCCCCO | C6H13ClO
reactant | potassium carbonate | 20.50 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 1.50 g | [I-].[K+]
reactant | HCl | 3N, 150 ml | Cl | ClH
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 6-(6bromo-naphthalen-2-yloxy)hexan-1-ol | 24.8 g | BrC=1C=C2C=CC(=CC2=CC1)OCCCCCCO | C16H19BrO2
